US04007176
Thionyl chloride (3 cc.) is added to a solution of (5,6-dihydro-1,4-dithiin-2-yl)acetic acid (3.10 g.) in benzene (60 cc.), and the mixture is heated under reflux until gas ceases to be evolved. The reaction mixture is then concentrated to dryness under reduced pressure (20 mm.Hg). A brown oil is obtained and is dissolved in chloroform (60 cc.). The solution is added dropwise, over the course of one hour, to a suspension of 7-aminodesacetoxycephalosporanic acid (4.28 g.) in chloroform (50 cc.) and triethylamine (5.5 cc.) kept at 5° C. The mixture is stirred for a further 45 minutes at a temperature of about 20° C. and is concentrated to dryness under reduced pressure (20 mm.Hg). The residue is taken up in water (100 cc.) and ethyl acetate (100 cc.) and the aqueous phase is brought to pH 8.5 by addition of triethylamine. The organic phase is separated by decantation. Ethyl acetate (300 cc.) is added to the aqueous phase and 4N hydrochloric acid is added until the pH is 2. The organic phase is separated, the aqueous phase is washed with ethyl acetate (100 cc.), and the organic phases are combined, dried over magnesium sulphate, treated with decolourizing charcoal and concentrated to 50 cc. under reduced pressure (20 mm.Hg). After cooling to about 0° C., the solid is filtered off and washed with ethyl acetate (2 × 20 cc.). 2-Carboxy-7-[(5,6-dihydro-1,4-dithiin-2-yl)acetamido]-3-methyl-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene (2.6 g.) is obtained in the form of a light beige powder.

reactant | Thionyl chloride | 3 cc | S(=O)(Cl)Cl | Cl2OS
reactant | (5,6-dihydro-1,4-dithiin-2-yl)acetic acid | 3.10 g | S1C(=CSCC1)CC(=O)O | C6H8O2S2
reactant | 7-aminodesacetoxycephalosporanic acid | 4.28 g | CC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C8H10N2O3S
solvent | benzene | 60 cc | C1=CC=CC=C1 | C6H6
solvent | chloroform | 60 cc | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 cc | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 5.5 cc | C(C)N(CC)CC | C6H15N
product | 2-Carboxy-7-[(5,6-dihydro-1,4-dithiin-2-yl)acetamido]-3-methyl-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene | 2.6 g | C(=O)(O)C=1N2C(C(C2SCC1C)NC(CC=1SCCSC1)=O)=O | C14H16N2O4S3
